US08703941B2
A solution of 1-N-(2-fluoroethyl)-4-N-[7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]cyclohexane-1,4-diamine (100 mg, 0.30 mmol, 1.00 equiv) in methanol (10 mL) was added HCHO (37%, 1 mL) and the resulting mixture was stirred at room temperature for 0.5 h. The NaBH(OAc)3 (250 mg, 1.18 mmol, 4.00 equiv) was added and the resulting solution was stirred for additional 1 h at ambient temperature. After completion of the reaction, the reaction was then quenched with saturated aqueous sodium bicarbonate, extracted with 3×50 ml of dichloromethane. The combined organic layers were dried in an oven under reduced pressure and concentrated under vacuum. The residue was applied onto a silica gel column with dichloromethane/MeOH (10:1) to afford the corresponding 1-N-(2-fluoroethyl)-1-N-methyl-4-N-[7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]cyclohexane-1,4-diamine (47.8 mg, 46%) as a white solid. MS: (ES, m/z): 349 [M+H]+. 1H NMR (400 MHz, CDCl3): δ 1.23-1.32 (m, 2H), 1.50-1.60 (m, 2H), 1.76-1.95 (m, 2H), 2.27-2.35 (m, 2H), 2.40 (s, 3H), 2.50-2.60 (m, 3H), 2.84 (d, 2H), 2.99-3.05 (m, 4H), 4.05-4.15 (m, 1H), 4.57 (d, 2H), 4.86 (d, 1H), 8.39 (s, 1H).

reactant | 1-N-(2-fluoroethyl)-4-N-[7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]cyclohexane-1,4-diamine | 0.30 mmol, 100 mg, 1.00 equiv | FCCNC1CCC(CC1)NC1=NC=NC=2SC=3CCCC3C12 | C17H23FN4S
reactant | HCHO | 1 mL | C=O | CH2O
reactant | NaBH(OAc)3 | 1.18 mmol, 250 mg, 4.00 equiv | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | 1-N-(2-fluoroethyl)-1-N-methyl-4-N-[7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]cyclohexane-1,4-diamine | 47.8 mg, 46% | FCCN(C1CCC(CC1)NC1=NC=NC=2SC=3CCCC3C12)C | C18H25FN4S
